US09278996B2
2-amino-1-(2-fluoro-4-methoxyphenyl)ethanone (IX-4)
To a solution of 2-azido-1-(2-fluoro-4-methoxyphenyl)ethanone (4.80 g, 25.36 mmol) in 100 mL of tetrahydrofuran were added triphenylphosphine (6.65 g, 25.36 mmol) and p-toluenesulfonic acid (14.5 g, 76.11 mmol), followed by stirring at room temperature for 16 hrs.

reactant | 2-azido-1-(2-fluoro-4-methoxyphenyl)ethanone | 25.36 mmol, 4.80 g | N(=[N+]=[N-])CC(=O)C1=C(C=C(C=C1)OC)F | C9H8FN3O2
reactant | triphenylphosphine | 25.36 mmol, 6.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-toluenesulfonic acid | 76.11 mmol, 14.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-amino-1-(2-fluoro-4-methoxyphenyl)ethanone | NCC(=O)C1=C(C=C(C=C1)OC)F | C9H10FNO2
